US07157447B2
N-(2-(3-Bromoisoxazol-5-yl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A solution of intermediate 179, N-(2-ethynyl-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.350 g, 0.76 mmol) in a mixture of ethyl acetate (10 ml) and water (2 ml) was treated with potassium bicarbonate (0.230 g, 2.3 mmol) followed by dibromoformaldoxime (0.354 g, 1.75 mmol) (D. M. Vyas, Y. Chiang and T. W. Doyle, Tetrahedron Letters, 1984, 25, 487–490) and the resulting mixture stirred at 22° C. After 1 h, identical quantities of potassium bicarbonate and dibromoformaldoxime were added and the mixture stirred for another 1.5 h. The reaction mixture was then diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Crystallization of the residue from ether gave 0.300 g (68% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.63 (6H, s, 2×CH3), 4.04 (4H, m, 2×CH2), 4.67 (2H, d, J=6.6 Hz, NCH2), 5.32 (2H, s, OCH2), 6.60 (1H, s, CH), 7.17 (1H, m, aromatic), 7.30–7.36 (4H, m, aromatics), 7.51–7.53 (2H, m, aromatics), 7.60 (1H,dd, J=5.5 Hz and J=8.6 Hz, aromatic), 8.01 (1H, broad t, NH). HRMS (ESI+) calculated for C27H25BrFN4O5 [M+H+]: 583.0992. found: 583.0986.

reactant | N-(2-ethynyl-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.76 mmol, 0.350 g | C(#C)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C26H24FN3O4
reactant | potassium bicarbonate | 2.3 mmol, 0.230 g | C([O-])(O)=O.[K+]
reactant | dibromoformaldoxime | 1.75 mmol, 0.354 g | BrC(=NO)Br | CHBr2NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
product | N-(2-(3-Bromoisoxazol-5-yl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.300 g, 68% yield | BrC1=NOC(=C1)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C27H24BrFN4O5
